US05389633
Production of ethyl 4-chloro-2,2-diethybutyrate
Using ethyl 2-ethylbutyrate and 1-bromo-2-chloroethane, the same reaction as in Reference Example 16 was conducted to produce the title compound. b.p. 69°-72° C./0.3 mmHg

reactant | ethyl 2-ethylbutyrate | C(C)C(C(=O)OCC)CC | C8H16O2
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | ethyl 4-chloro-2,2-diethybutyrate | ClCCC(C(=O)OCC)(CC)CC | C10H19ClO2
